US04532248
(A) Preparation of methyl α-acetyl-2-(4-methylbenzyloxy)-cinnamate
25 g (110.6 millimols) of 2-(4-methylbenzyloxy)-benzaldehyde were stirred with 11.9 ml (110.6 millimols) of methyl acetoacetate in 66 ml of isopropanol, and a freshly prepared solution of 0.64 ml of piperidine and 0.38 ml of glacial acetic acid in 5.5 ml of isopropanol was added. The mixture was stirred for 1 hour at 60° C. and for 4 hours at 40° C., and was cooled and concentrated. The residue from evaporation was dissolved in ether, and the solution was washed successively with approx. 100 ml of 1N hydrochloric acid, with two portions of water, with saturated sodium bicarbonate solution and again with two portions of water. The ether phase was dried, filtered and concentrated. 35.3 g (98.51% of theory) of a dark yellow oil were obtained, and the oil was reacted further in the crude form.

reactant | 2-(4-methylbenzyloxy)-benzaldehyde | 110.6 millimols, 25 g | CC1=CC=C(COC2=C(C=O)C=CC=C2)C=C1 | C15H14O2
reactant | methyl acetoacetate | 110.6 millimols, 11.9 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | piperidine | 0.64 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.38 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 66 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5.5 ml | C(C)(C)O | C3H8O
product | methyl α-acetyl-2-(4-methylbenzyloxy)-cinnamate | C(C)(=O)C(C(=O)OC)=CC1=C(C=CC=C1)OCC1=CC=C(C=C1)C | C20H20O4
